US03932505
Salicylic acid (0.67 m) was alkylated with 1.33 m isopropanol using 3.3 m concentrated sulphuric acid as catalyst at 70°C for six hours, to give 2-hydroxy-3,5-diisopropyl benzoic acid (m.p. 113°-116°C) in 40% yield. This was esterified to form the methyl ester and converted into its hydrazide using hydrate in aqueous ethanol. The hydrazide had a melting point of 111°-113°C and the following elemental analysis by weight:

reactant | Salicylic acid | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
catalyst | isopropanol | C(C)(C)O | C3H8O
catalyst | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-hydroxy-3,5-diisopropyl benzoic acid | 40% yield | OC1=C(C(=O)O)C=C(C=C1C(C)C)C(C)C | C13H18O3
